US06891066B2
A solution of the product of Example 2, Step D, 2-(2-chloro-4-vinyl-phenylamino)-3,4-difluoro-N-(2-hydroxy-ethoxy)-benzamide (0.291 g, 0.789 mmol) in tetrahydrofuran (16 mL) was hydrogenated over 10% palladium on carbon (0.08 g) at 6900 psig at room temperature for 17 hours. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to afford a crystalline solid. The solid was dissolved in methanol and concentrated to near dryness. Ether (10 mL) was added and the mixture was allowed to stand at ambient temperature for 6 hours. during which crystallization ensued. The white crystals were filtered, washed with a small volume of ether, and dried in vacuo at 60° C. overnight yielding 2-(2-chloro-4-ethyl-phenylamino)-3,4-difluoro-N-(2-hydroxy-ethoxy)-benzamide (222 mg): m.p. 142.5-145° C.; 1H NMR (400 MHz, DMSO-d6) δ 11.94 (br s, 1 H), 8.85 (br s, 1 H), 7.44 (br t, J=6.4 Hz, 1 H), 7.30 (d, J=2.0 Hz, 1 H), 7.22-7.15 (m, 1 H), 7.05 (dd, J=8.3, 2.0 Hz, 1 H), 6.75 (dd, J=8.3, 6.3 Hz, 1 H), 4.71 (br s, 1 H), 3.89 (br s, 2 H), 3.59 (br s, 2 H), 2.54 (q, J=7.6 Hz, 2 H), 1.15 (t, J=7.6 Hz, 3H); 19F NMR (376 MHz, DMSO-d6) δ −132.7, −142.0; MS (APCI+)=371.0. Anal. Calcd/found for C17H17ClF2N2O3: C, 55.07/55.14; H, 4.62/4.51; N, 7.56/7.38; F, 10.25/9.98.

reactant | 2-(2-chloro-4-vinyl-phenylamino)-3,4-difluoro-N-(2-hydroxy-ethoxy)-benzamide | 0.789 mmol, 0.291 g | ClC1=C(C=CC(=C1)C=C)NC1=C(C(=O)NOCCO)C=CC(=C1F)F | C17H15ClF2N2O3
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.08 g | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 2-(2-chloro-4-ethyl-phenylamino)-3,4-difluoro-N-(2-hydroxy-ethoxy)-benzamide | 222 mg | ClC1=C(C=CC(=C1)CC)NC1=C(C(=O)NOCCO)C=CC(=C1F)F | C17H17ClF2N2O3
